US05366982
The procedure of Example 4 is followed using 4,6-diphenyl-2-pyridone (6.18 g) and 6-bromohexanonitrile (6.60 g) in place of 6-bromohexanoate, silver carbonate (6.89 g) and toluene (300 cc) and the reaction mixture is refluxed for 72 hours. The material formed is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-ethyl acetate 9.5-0.5) to obtain 6-[(4,6-diphenyl-2-pyridyl)oxy]hexanonitrile as a white solid which is used directly in subsequent reactions.

reactant | 4,6-diphenyl-2-pyridone | 6.18 g | C1(=CC=CC=C1)C1=CC(NC(=C1)C1=CC=CC=C1)=O | C17H13NO
reactant | 6-bromohexanonitrile | 6.60 g | BrCCCCCC#N | C6H10BrN
catalyst | silver carbonate | 6.89 g | C([O-])([O-])=O.[Ag+2]
solvent | toluene | 300 cc | C1(=CC=CC=C1)C | C7H8
product | 6-[(4,6-diphenyl-2-pyridyl)oxy]hexanonitrile | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC#N | C23H22N2O
